US09029536B2
C) 2-(4-Bromophenoxy)-3-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridine
To a stirred solution of 4-bromophenol (149 mg) in DMF (4 mL) was added NaH (60% in oil, 36.0 mg) at room temperature. The mixture was stirred at room temperature for 30 min. To the mixture was added 3-(2-methoxyethyl)-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (200 mg). The mixture was exposed to microwave irradiation at 180° C. for 30 min, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (243 mg).

reactant | 4-bromophenol | 149 mg | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaH | 36.0 mg | [H-].[Na+]
reactant | 3-(2-methoxyethyl)-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 200 mg | COCCN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C10H13N3O3S
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(4-Bromophenoxy)-3-(2-methoxyethyl)-3H-imidazo[4,5-b]pyridine | 243 mg | BrC1=CC=C(OC2=NC=3C(=NC=CC3)N2CCOC)C=C1 | C15H14BrN3O2
